Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___ / ___
 
Attending: ___
 
Chief Complaint:
Dizziness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ with unremarkable PMH who presents with one 
week of worsening intermittent vertigo and admitted with 
hyponatremia to 126.

On about ___, after having dilated eye exam for posterior 
vitreous separation, pt reports onset of severe vertigo 
primarily with ambulation that has been occurring intermittently 
since that time. She also notes mild ear fullness.
On ___, she was seen by chiropractor for worsening of her 
chronic neck pain who advised her to go to PCP. Her PCP 
diagnosed likely vestibular neuritis and reportedly saw presence 
of predominantly right-sided nystagmus and advised pt her 
symptoms would resolve in ___ weeks. 

On ___, she attended baseball game in ___ and was drinking a 
lot of water and not eating most of the day as it was very hot. 
Found vertigo was worsening and was evaluated and sent to ED.

Patient thinks symptoms may be slightly worse when she turns her 
head to the right but this is not clearly the case. Otherwise 
has no vision changes, no double vision, no lightheadedness, no 
CP/palpitations, no dyspnea/orthopnea/PND/weight gain, no 
hearing loss, no tinnitus. 

Of note she does have intermittent exertional CP present for 
past ___ years which has been distantly evaluated with stress 
tests reportedly negative. 

In the ED, initial vitals were wnl. Neuro exam was reportedly 
nonfocal with negative ___ maneuver.
Labs were significant for Na 126 with otherwise normal chemistry 
and CBC. Troponin was negative and ECG showed sinus rhythm.
Noncon head CT and CTA head/neck were unremarkable.
In the ED, she received 324 mg ASA.

 
Past Medical History:
osteopenia
thygeson's (ophthalmic diagnosis)
asthma
Raynaud phenomenon
 
Social History:
___
Family History:
Mother with thyroid problem. Father with MI, DM2. ___ GM 
with h/o CVA. Sisters with breast CA, BCC, thyroid problem, high 
cholesterol. Of note one sister has longstanding vertigo. No 
other FH of arrhythmia, seizure d/o, neurologic d/o.
 
Physical Exam:
PHYSICAL EXAM
==============
VS:  98.1 | 130/NR | 79 | 18 | 100 RA 
GEN: Alert, sitting up in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor, EOMI 
intact to gross exam  
NECK: Supple without LAD  
PULM: CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal, 
no dysdiadochokinesia, FNF intact with mild tremor at full 
extension b/l, fast-and-fine finger movements intact, heel shin 
intact
 
Pertinent Results:
LABS
===============
___ 01:25AM BLOOD WBC-9.8 RBC-4.47 Hgb-12.7 Hct-40.2 MCV-90 
MCH-28.4 MCHC-31.6* RDW-12.7 RDWSD-42.2 Plt ___
___ 01:25AM BLOOD Neuts-76.7* Lymphs-18.5* Monos-4.0* 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-7.48* AbsLymp-1.80 
AbsMono-0.39 AbsEos-0.02* AbsBaso-0.03
___ 01:25AM BLOOD Glucose-131* UreaN-13 Creat-0.8 Na-126* 
K-4.7 Cl-92* HCO3-21* AnGap-18
___ 01:25AM BLOOD cTropnT-<0.01
___ 10:48AM BLOOD Glucose-135* UreaN-11 Creat-0.8 Na-138 
K-3.6 Cl-101 HCO3-23 AnGap-18

IMAGING
===============
CTA head/neck ___
1. No acute intracranial abnormality. 
2. Patent intracranial vasculature without stenosis, occlusion 
or aneurysm. Findings indicative of fibromuscular dysplasia of 
the right cervical internal carotid artery.  No evidence of 
dissection. 
3. Patent cervical vasculature without stenosis, occlusion or 
dissection. 

 
Brief Hospital Course:
 Ms. ___ is a ___ with unremarkable PMH who presents with 
one week of worsening intermittent vertigo and admitted with 
hyponatremia to 126.

# Vertigo: History and physical suggestive of peripheral 
etiology; no exam findings concerning for central etiology. Most 
likely vestibular neuritis as previously diagnosed by PCP, 
possibly symptomatically worsened in setting of heat, poor PO, 
hyponatremia. CTA head/neck was done which was notable for 
fibromuscular dysplasia of R ICA but otherwise no significant 
findings. Patient offered pulse course of steroids which she 
will consider as outpatient.

# Hyponatremia: Na 126 in ED. Given history likely in setting of 
poor PO intake/excessive water intake prior to admission. 
Recheck on admission was 138.

# Headache: Mild occipital headache outside of usual pattern. 
Reassuring imaging and no concerning red flag features (no 
visual changes, not worse with supine). She was given Tylenol 
and Zofran for symptomatic relief.

# CODE STATUS: Presumed Full  
# CONTACT:  sister ___ ___

TRANSITIONAL ISSUES:
-Given prescription of prednisone (and ranitidine) as this may 
improve vestibular neuritis
-Would consider outpatient stress test as patient reports 
intermittent exertional chest pain
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 

 
Discharge Medications:
1.  PredniSONE 60 mg PO DAILY Duration: 5 Doses 
Start: ___, First Dose: Next Routine Administration Time 
This is dose # 1 of 4 tapered doses
RX *prednisone 10 mg 6 tablet(s) by mouth daily Disp #*37 Tablet 
Refills:*0 
2.  PredniSONE 40 mg PO DAILY Duration: 1 Dose 
Start: After 60 mg DAILY tapered dose 
This is dose # 2 of 4 tapered doses 
3.  PredniSONE 20 mg PO DAILY Duration: 1 Dose 
Start: After 40 mg DAILY tapered dose 
This is dose # 3 of 4 tapered doses 
4.  PredniSONE 10 mg PO DAILY Duration: 1 Dose 
Start: After 20 mg DAILY tapered dose 
This is dose # 4 of 4 tapered doses 
5.  Ranitidine 150 mg PO BID Duration: 8 Days 
while taking prednisone
 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*16 Tablet Refills:*0 
6.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Vestibular neuritis

Secondary
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after you had worsening 
vertigo and were found to have low sodium. Most likely the 
vertigo is because of vestibular neuritis, as your PCP had 
already diagnosed. You are being given a prescription for 
steroids and a medication to protect your stomach, which you can 
take if your symptoms continue to disturb you. Your low sodium 
was likely from eating very little and drinking a lot of water, 
and it was improving by the time you were discharged.

You should follow up with your PCP to ensure your symptoms 
continue to improve. You may also need another cardiac stress 
test at some point to determine whether your intermittent chest 
pain is of concern.

It was a pleasure taking care of you during your stay in the 
hospital.

 - Your ___ Team
 
Followup Instructions:
___